US06017919
2-(2-Methoxy-5-methylphenyl)octanal (63.8 g, 0.257 mol), methyl iodide (160 ml, 2.57 mol) and benzene (300 ml) were mixed, and this solution was cooled to -5° C. Potassium t-butoxide (31.3 g, 0.279 mol) was added in such a manner that the temperature of the reaction mixture does not exceed 0° C., and the mixture was stirred at -2° C. for 0.5 hour. The reaction mixture was poured into ice water (200 ml) to stop the reaction. The aqueous layer was erected twice with ether (150 ml), and the organic layers were combined, washed with saturated brine (100 ml) and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. Methanol (400 ml), an aqueous solution (110 ml) of semicarbazide hydrochloride (28.6 g, 0.257 mol) and pyridine (20.4 ml, 0.257 mol) were added to the obtained residue, and the mixture was stirred at room temperature for 0.75 hour. The precipitated crystals were collected by filtration, and washed with hexane. The crystals were dried to give 2-(2-methoxy-5-methylphenyl)octanal semicarbazide (64.7 g, 79%) as colorless crystals.

reactant | 2-(2-Methoxy-5-methylphenyl)octanal | 0.257 mol, 63.8 g | COC1=C(C=C(C=C1)C)C(C=O)CCCCCC | C16H24O2
reactant | methyl iodide | 2.57 mol, 160 ml | CI | CH3I
reactant | Potassium t-butoxide | 0.279 mol, 31.3 g | CC(C)([O-])C.[K+]
reactant | semicarbazide hydrochloride | 0.257 mol, 110 ml, 28.6 g | Cl.NNC(=O)N
reactant | pyridine | 0.257 mol, 20.4 ml | N1=CC=CC=C1 | C5H5N
solvent | Methanol | 400 ml | CO | CH4O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-methoxy-5-methylphenyl)octanal semicarbazide | 64.7 g, 79% | NNC(=O)N.COC1=C(C=C(C=C1)C)C(C=O)CCCCCC | InChI=1S/C16H24O2.CH5N3O/c1-4-5-6-7-8-14(12-17)15-11-13(2)9-10-16(15)18-3;2-1(5)4-3/h9-12,14H,4-8H2,1-3H3;3H2,(H3,2,4,5)
